US08058263B2
1.11. (R)-2-benzyloxycarbonylamino-4-hydroxy-butyric acid
To an ice-cooled solution of H-Hse-OH (5 g) in dioxane/2M NaOH (168 mL/42 mL) was added benzyl chloroformate (6.7 mL) dropwise over 15 min. The reaction mixture was allowed to warm to RT and was stirred overnight at RT. The solvent was evaporated off and the aq. residue was extracted with Et2O and acidified with a 2M HCl solution. The aq. phase was extracted with DCM. The DCM layers were combined, washed with water, dried (Na2SO4) and evaporated off to give the desired product as a white powder (6.2 g).

reactant | H-Hse-OH | 5 g | N[C@@H](CCO)C(=O)O | C4H9NO3
reactant | benzyl chloroformate | 6.7 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dioxane | 2M, 168 mL | O1CCOCC1 | C4H8O2
product | (R)-2-benzyloxycarbonylamino-4-hydroxy-butyric acid | 6.2 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(=O)O)CCO | C12H15NO5
